US03932447
13.5 g of trichloroacryloyl-isocyanate were added dropwise to 10 g of methyl 2-benzimidazolyl-carbamate and 0.1 g of 1,4-diazabicyclo (2,2,2) octane in 160 ml of tetrahydrofuran and the mixture was stirred for 17 hours at room temperature and was vacuum filtered. The crystals obtained were washed with petroleum ether and dried under reduced pressure to obtain 18.2 g of methyl 1-trichloroacryloylcarbamoyl-2-benzimidazolyl-carbamate as a solid melting at 231°C.

reactant | trichloroacryloyl-isocyanate | 13.5 g | ClC(C(=O)N=C=O)=C(Cl)Cl | C4Cl3NO2
reactant | methyl 2-benzimidazolyl-carbamate | 10 g | N1=C(NC2=C1C=CC=C2)NC(OC)=O | C9H9N3O2
solvent | tetrahydrofuran | 160 ml | O1CCCC1 | C4H8O
catalyst | 1,4-diazabicyclo (2,2,2) octane | 0.1 g | N12CCN(CC1)CC2 | C6H12N2
product | methyl 1-trichloroacryloylcarbamoyl-2-benzimidazolyl-carbamate | 18.2 g | ClC(C(=O)NC(=O)N1C(=NC2=C1C=CC=C2)NC(OC)=O)=C(Cl)Cl | C13H9Cl3N4O4
